US06903120B2
4-(3-Methanesulfonyl-phenyl)-piperidin-1-carboxylic acid methyl ester
4-(3-Methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester (2.0 g) was dissolved in methanol (40 ml). Concentrated hydrochloric acid (2 ml) and Pd/C (500 mg) were added. The resulting mixture was hydrogenated under a hydrogen gas pressure (50 psi) for 8 h and then filtered through a pad of celite. The solvent was evaporated in vacuum and the residue was purified by flash chromatography (CH2Cl2: MeOH, 3:1 (v/v)). Yield 0.92 g MS m/z (relative intensity, 70 eV) 297 (M+, 54), 282 (62), 238 (bp), 115 (92), 56 (93).

reactant | 4-(3-Methanesulfonyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid methyl ester | 2.0 g | COC(=O)N1CCC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C | C14H17NO4S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-(3-Methanesulfonyl-phenyl)-piperidin-1-carboxylic acid methyl ester | COC(=O)N1CCC(CC1)C1=CC(=CC=C1)S(=O)(=O)C | C14H19NO4S
